US07285563B2
3-(2-Azidoethyl)isoquinoline
To a ice-bath cooled solution of 3-(2-hydroxyethyl)isoquinoline (Description 111; 4.85 g, 28 mmol) and triethylamine (5.07 ml, 36.4 mmol) in anhydrous dichloromethane (100 ml) was added slowly methanesulfonyl chloride (2.49 ml, 32.2 mmol), and the resulting mixture stirred at room temperature for 1 hour. The mixture was washed with water (200 ml), sat NaCl (100 ml), dried over Na2SO4, filtered and evaporated. The residue was dissolved in anhydrous N,N-dimethylformamide (100 ml) and sodium azide (2.00 g, 30.8 mmol) added and the resulting mixture stirred at room temperature for 4 days. The mixture was poured into water (400 ml), and extracted with EtOAc (3×100 ml). The combined EtOAc layers were washed with water (3×200 ml), saturated aqueous NaCl (100 ml), dried over Na2SO4, filtered and evaporated to give the title compound (5.6 g, 100%).

reactant | 3-(2-hydroxyethyl)isoquinoline | 28 mmol, 4.85 g | OCCC=1N=CC2=CC=CC=C2C1 | C11H11NO
reactant | triethylamine | 36.4 mmol, 5.07 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 32.2 mmol, 2.49 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 30.8 mmol, 2.00 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 400 ml | O | H2O
product | 3-(2-Azidoethyl)isoquinoline | 5.6 g, 100% | N(=[N+]=[N-])CCC=1N=CC2=CC=CC=C2C1 | C11H10N4
